US08476297B2
A solution of 8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (0.4 g, 1.4 mmol) and diisopropylethylamine (0.5 mL, 2.9 mmol) in anhydrous 1,2-dichloroethane (10 mL) was treated with 4-fluorophenyl isocyanate (0.14 mL, 1.2 mmol) and stirred at RT for 16 h. The solvent was removed under vacuum and the residue was purified by preparative HPLC [gradient 10-90% MeCN (0.1% TFA)/H2O (0.1% TFA)] to give the pure product which was dissolved in methanol (10 mL) and neutralized by passing the solution through a Polymer Lab-HCO3 Macroporous resin cartridge, and the filtrate was concentrated to give 8-fluoro-N-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide as a white solid. MS (ESI pos. ion) m/z: 433 (M+1).

reactant | 8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 1.4 mmol, 0.4 g | FC=1C=CC=C2CCNC(C12)C1=CC=C(C=C1)C(F)(F)F | C16H13F4N
reactant | diisopropylethylamine | 2.9 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-fluorophenyl isocyanate | 1.2 mmol, 0.14 mL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 8-fluoro-N-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC=1C=CC=C2CCN(C(C12)C1=CC=C(C=C1)C(F)(F)F)C(=O)NC1=CC=C(C=C1)F | C23H17F5N2O
